US07947692B2
A solution of (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester (6 g, 19.8 mmol) and piperidin-4-yl-carbamic acid tert-butyl ester (4.37 g, 21.8 mmol) in acetonitrile (400 mL) was heated to reflux for 1 h and was then stirred at 25° C. overnight. The resulting solid was collected by filtration, rinsed with acetonitrile and dried in vacuo to afford [1-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (7.3 g, 90%) as a white solid; ES-HRMS m/e calcd for C17H24N6O4S (M+H)+ 409.1653, found 409.1653.

reactant | (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester | 19.8 mmol, 6 g | C1(=CC=CC=C1)OC(NC=1SC=2N=CN=C(C2N1)OC)=O | C13H10N4O3S
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 21.8 mmol, 4.37 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | [1-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-ylcarbamoyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 7.3 g, 90% | C(C)(C)(C)OC(NC1CCN(CC1)C(NC=1SC=2N=CN=C(C2N1)OC)=O)=O | C17H24N6O4S
